// Generated for: spectre
// Generated on: Apr 26 10:45:55 2022
// Design library name: avatar_local
// Design cell name: fet_test
// Design view name: schematic
simulator lang=spectre
global 0
parameters rwaferback=rwaferback_tbd subthick=subthick_tbd \
    vwaferback=vwaferback_tbd
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/config.scs" section=default
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/param.scs" section=3s
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/cap.scs" section=tm
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/dio.scs" section=tm
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/ind.scs" section=tm
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/mos.scs" section=tm
include "/cad/kits/harvard/xfab_top/XKIT/xr013/cadence/v3_2/spectre/v3_2_1/core/res.scs" section=tm

//include "$CS148/rram_model/Models/rram0.scs" section=rram
include "../Models/rram0.scs" section=rram

// Library name: avatar_local
// Cell name: fet_test
// View name: schematic
//N0 (net1 net_vg 0 0) nmos2vbc_4 l=320.0n wfinger=4u nfinger=1 m=1 sa=360n sb=360n sd=0
//N0 (net1 net_vg net_vs net_vs) nmos2vbc_4 l=320.0n wfinger=4u nfinger=1 m=1 sa=360n sb=360n sd=0
//N0 (net1 net_vg net_vs 0) nmos2vbc_4 l=320.0n wfinger=4u nfinger=1 m=1 sa=360n sb=360n sd=0
N0 (net1 net_vg net_vs 0) nmos2vbc_4 l=320.0n wfinger=10u nfinger=10 m=1 sa=360n sb=360n sd=0


//I0 (net1 net_vd) rpoly1h_2t value=10.24K w=400n ser=1 m=1
//I0 (net_vd net1) rram0 gap_max=2.0e-9

//I0 (net_vd net1) rram0 Vel0=150
I0 (net_vd net1) rram0 gap_ini=0.1e-9



//VG (net_vg 0) vsource type=pwl wave=[ 0 1.5 400n 1.5 450n  2   1u 2 ]
//VD (net_vd 0) vsource type=pwl wave=[ 0 0   200n 2.5 600n -2.5 800n 0 1u 0 ]

//VG (net_vg 0) vsource type=pwl wave=[ 0 1.5          400n 1.5 401n   2    ]
//VD (net_vd 0) vsource type=pwl wave=[ 0 0   200n 2.5 400n 0   401n  -0.5  ]

//VG (net_vg 0) vsource type=pwl wave=[ 0 1.5          400p 1.5 401p   2    ]
//VD (net_vd 0) vsource type=pwl wave=[ 0 0   200p 2.5 400p 0   401p  -0.5  ]

VG (net_vg 0) vsource type=pwl wave=[ 0 1.5          400n 1.5 ]
//VG (net_vg 0) vsource type=pwl wave=[ 0 2.5          400n 2.5 ]
//VD (net_vd 0) vsource type=pwl wave=[ 0 0   200n 2.5 400n 0   ]
VD (net_vd 0) vsource type=pwl wave=[ 0 0   200n 1.5 400n 0   ]
VS (net_vs 0) vsource type=pwl wave=[ 0 0 400n 0 401n 1.5 ]

//VG (net_vg 0) vsource type=pwl wave=[ 0 2 ]
//VD (net_vd 0) vsource type=pwl wave=[ 0 -2.5 ]

//VG (net_vg 0) vsource type=pwl wave=[ 0 1.5 400n 1.5 450n 2 1u 2 2u 2 ]
//VD (net_vd 0) vsource type=pwl wave=[ 0 0 200n 2.5 600n -2.5 1600n -2.5 ]


simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="./psf/sens.rram.output" checklimitdest=psf 

tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save VD:p 
saveOptions options save=allpub
